US06528543B1
A mixture of 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid (400 mg, 1.07 mmol) in methylene chloride (4 mL) cooled to 0° C. was treated with N,N-dimethylformamide (2 drops) followed by oxalyl chloride (100 μL, 1.18 mmol). The reaction mixture was stirred at 0° C. for 10 min and then stirred at 25° C. for 1 h. The resulting reaction mixture was then treated dropwise with 1,1,1,3,3,3-hexamethyldisilazane (680 μL, 3.21 mmol) and subsequently stirred at 25° C. for 15 h. The reaction mixture was then diluted with methylene chloride (20 mL) and methanol (20 mL). The organic layer was washed with a 5% aqueous sulfuric acid solution (1×40 mL) and a saturated aqueous sodium chloride solution. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide (271 mg, 68%) as a white foam. The white foam was used without further purification: mp 60-63° C.; EI-HRMS m/e calcd for C15H20BrNO3S (M+) 373.0347, found 373.0348.

reactant | 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid | 1.07 mmol, 400 mg | BrC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1CCCC1 | C15H19BrO4S
reactant | oxalyl chloride | 1.18 mmol, 100 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 3.21 mmol, 680 μL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide | 271 mg, 68% | BrC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)N)CC1CCCC1 | C15H20BrNO3S
